US06949542B2
(2-Amino-5-cyclopropyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (5-cyclopropyl-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example A31) (460 mg, 1.33 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as an orange solid (300 mg, 71%).

reactant | (5-cyclopropyl-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 1.33 mmol, 460 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C1CC1)C(F)(F)F)[N+](=O)[O-])=O | C15H17F3N2O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | (2-Amino-5-cyclopropyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C1CC1)C(F)(F)F)N)=O | C15H19F3N2O2
